US04673740
48 g of 3-trifluoromethylbenzoyl fluoride and 20 g of 50% strength aqueous sodium hydroxide solution are added simultaneously via 2 feed apparatuses in the course of 25 minutes at from 25° to 36° C. to a stirred mixture of 42.9 g of 6-chloroanthranilic acid and 0.45 g of triethylbenzylammonium chloride and 700 g of toluene. Stirring is continued for 90 minutes at 27° C., after which the water is separated off at from 87° to 104° C. After the addition of 32.7 g of thionyl chloride in the course of 15 minutes at 70° C., stirring is continued for 90 minutes at 82° C. The mixture is extracted once with water and once with 0.4 N sodium hydroxide solution, and is evaporated down to give 75 g (92%) of 5-chloro-2-(m-trifluoromethylphenyl)-4H-3,1-benzoxazin-4-one of melting point 116°-120° C.

reactant | 3-trifluoromethylbenzoyl fluoride | 48 g | FC(C=1C=C(C(=O)F)C=CC1)(F)F | C8H4F4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 6-chloroanthranilic acid | 42.9 g | ClC=1C=CC=C(C1C(=O)O)N | C7H6ClNO2
catalyst | triethylbenzylammonium chloride | 0.45 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | toluene | 700 g | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-(m-trifluoromethylphenyl)-4H-3,1-benzoxazin-4-one | 75 g, 92% | ClC1=CC=CC2=C1C(OC(=N2)C2=CC(=CC=C2)C(F)(F)F)=O | C15H7ClF3NO2
